US05071871
To a white suspension of 7,9 mg of m-chloroperbenzoic acid and 4,4 g of dry sodiumbicarbonate in 90 ml of abs. chloroform a solution of 6,7 g of trans-3-bromo-3,4-dihydro-4-hydroxy-2,2-dimethyl-2H-pyrano[3,2-c]pyridin in 70 ml of chloroform is dropwise added under argon. After 2 hours the suspension is concentrated to dryness, the residue taken up in dichloromethane/methanol and filtrated to a clean filtrate. Concentration of the filtrate and purification by chromatography (silica gel, dichloromethan/methanol) of the residue yields solid trans-3-bromo-3,4-dihydro-4-hydroxy-2,2-dimethyl-6-oxido-2H-pyrano-[3,2-c]pyridine.

reactant | m-chloroperbenzoic acid | 7,9 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodiumbicarbonate | 4,4 g | C([O-])(O)=O.[Na+]
reactant | trans-3-bromo-3,4-dihydro-4-hydroxy-2,2-dimethyl-2H-pyrano[3,2-c]pyridin | 6,7 g | Br[C@H]1[C@@H](C=2C=NC=CC2OC1(C)C)O | C10H12BrNO2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | trans-3-bromo-3,4-dihydro-4-hydroxy-2,2-dimethyl-6-oxido-2H-pyrano-[3,2-c]pyridine | Br[C@H]1[C@@H](C=2C=[N+](C=CC2OC1(C)C)[O-])O | C10H12BrNO3
